US06677368B2
To a solution of 4-phenyl-1,3-dihydro-indol-2-one (41.9 mg, 0.20 mmol) and 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide (53.1 mg, 0.20 mmol) in ethanol (1 mL) was added piperidine (0.1 mL). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide 2,4-dimethyl-5-(2-oxo-4-phenyl-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide (51 mg, 56%)

reactant | 4-phenyl-1,3-dihydro-indol-2-one | 0.20 mmol, 41.9 mg | C1(=CC=CC=C1)C1=C2CC(NC2=CC=C1)=O | C14H11NO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 0.20 mmol, 53.1 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2,4-dimethyl-5-(2-oxo-4-phenyl-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 51 mg, 56% | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=CC(=C12)C1=CC=CC=C1)=O)C)CC | C28H32N4O2
